* simple LD1117 3.3V regulator model (approximation)
.subckt LD1117V33 IN OUT GND
E1 OUT GND VALUE = { V(IN,GND) > 3.5 ? 3.3 : V(IN,GND)-0.2 }
Rout OUT GND 0.05
.ends LD1117V33